US03934008
7. BOC-Gly-Asn-Leu-Ser-Thr-OBzl
26.3 g of H-Asn-Leu-Ser-Thr-OBzl.TFA are dissolved in 100 ml of dimethylformamide, the solution is cooled to 0°C and successively mixed with 7.5 ml of triethylamine, 0.54 ml of glacial acetic acid and a solution of 14.4 g of BOC-Gly-ONP in 100 ml of dimethylformamide, stirred at room temperature until the mixture solidifies and left to stand for 2 days. Thereafter 300 ml of ethyl acetate are added whilst stirring and the mixture left to stand overnight at -10°C. The precipitate is filtered off, washed twice with ethyl acetate and twice with ether, stirred for half an hour with 200 ml of water, filtered off, washed with water and dried in vacuo. Melting point 227-228°C; [α]D = -23° (c = 2 in dimethylformamide); Rf9 = 0.50 (on silica gel).

reactant | H-Asn-Leu-Ser-Thr-OBzl.TFA | 26.3 g | N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H]([C@H](O)C)C(=O)OCC1=CC=CC=C1.FC(F)(F)C(=O)O
reactant | triethylamine | 7.5 ml | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 0.54 ml | C(C)(=O)O | C2H4O2
reactant | BOC-Gly-ONP | 14.4 g | CC(C)(C)OC(=O)NCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C13H16N2O6
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | BOC-Gly-Asn-Leu-Ser-Thr-OBzl | N(CC(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H]([C@H](O)C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C31H48N6O11
